US09056885B2
8-hydroxy-2,3,4,5-tetrahydro-1-ethylbenzo[b]azepine
To a solution of 8-methoxy-2,3,4,5-tetrahydro-1-ethylbenzo[b]azepine (0.54 g) in CH2Cl2 (25 mL) cooled to −78° C., BBr3 (1.24 mL) was added, and the reaction allowed to gradually warm to −20° C. After stirring for 3 hours, the reaction was quenched with MeOH, allowed to warm to room temperature, and then concentrated. The residue was dissolved in HCl (1M, 40 mL) and stirred for 1 hour. This solution was brought to pH 12 with K2CO3 (sat. aq.) and extracted with EtOAc (40 mL). The organic layer was washed with brine, dried (Na2SO4) and concentrated. The crude product was purified by silica gel chromatography (gradient of EtOAc in heptane) to provide the title compound (0.37 g) as a clear oil: 1H NMR (DMSO-d6) δ 8.88 (s, 1H), 6.79 (d, 1H); 6.29 (d, 1H), 6.16 (dd, 1H), 3.02 (q, 2H), 2.82-2.79 (m, 2H), 2.57-2.53 (m, 2H), 1.65-1.57 (m, 2H), 1.48-1.42 (m, 2H), 1.09 (t, 3H); MS expected 192 (C12H18NO, M+1), found 192.

reactant | 8-methoxy-2,3,4,5-tetrahydro-1-ethylbenzo[b]azepine | 0.54 g | COC=1C=CC2=C(N(CCCC2)CC)C1 | C13H19NO
reactant | BBr3 | 1.24 mL | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | 8-hydroxy-2,3,4,5-tetrahydro-1-ethylbenzo[b]azepine | 0.37 g | OC=1C=CC2=C(N(CCCC2)CC)C1 | C12H17NO
